US07514561B2
1-(2,6-Dichloro-4-trifluoromethylphenyl)-3-cyano-5-[3-(benzyioxycarbonylamino]-propionylamino)-4-trifluoromethylthiopyrazole (Compound number 7-50)
To a solution of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfinylpyrazole (1.0 g, 2.29 mmol) in dioxan, benzyloxycarbonyl-beta-alanine (0.56 g, 2.5 mmol), dicyclohexylcarbodiimide (0.61 g, 2.9 mmol) and 4-dimethylaminopyridine (0.06 g, 0.46 mmol) were added. The mixture was stirred at 25° C. for 24 hours. After extractive workup (ethyl acetate, water) and column chromatography with heptane-ethyl acetate (1:1) the title product was obtained (0.81 g).

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfinylpyrazole | 2.29 mmol, 1.0 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)C(F)(F)F | C12H4Cl2F6N4OS
reactant | benzyloxycarbonyl-beta-alanine | 2.5 mmol, 0.56 g | C(C1=CC=CC=C1)OC(=O)NCCC(=O)O | C11H13NO4
reactant | dicyclohexylcarbodiimide | 2.9 mmol, 0.61 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxan | O1CCOCC1 | C4H8O2
catalyst | 4-dimethylaminopyridine | 0.46 mmol, 0.06 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | water | O | H2O
product | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-3-cyano-5-[3-(benzyioxycarbonylamino]-propionylamino)-4-trifluoromethylthiopyrazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1NC(CCNC(=O)OCC1=CC=CC=C1)=O)SC(F)(F)F)C#N | C23H15Cl2F6N5O3S
